US07622508B2
a. Preparation of lithium (S)-4-tert-butoxycarbonylamino-2-hydroxybutyrate
A solution of (S)-4-tert-butoxycarbonylamino-2-hydroxybutyric acid methyl ester (1.52 g, 6.52 mmol) in methanol (20.0 mL) was treated with lithium hydroxide monohydrate (273.8 mg, 6.52 mmol) and water (2.0 mL) for 30 min, concentrated, and dried under vacuum to give a white solid (1.26 g)

reactant | (S)-4-tert-butoxycarbonylamino-2-hydroxybutyric acid methyl ester | 6.52 mmol, 1.52 g | COC([C@H](CCNC(=O)OC(C)(C)C)O)=O | C10H19NO5
reactant | lithium hydroxide monohydrate | 6.52 mmol, 273.8 mg | O.[OH-].[Li+]
reactant | water | 2.0 mL | O | H2O
solvent | methanol | 20.0 mL | CO | CH4O
product | lithium (S)-4-tert-butoxycarbonylamino-2-hydroxybutyrate | 1.26 g | C(C)(C)(C)OC(=O)NCC[C@@H](C(=O)[O-])O.[Li+] | InChI=1S/C9H17NO5.Li/c1-9(2,3)15-8(14)10-5-4-6(11)7(12)13;/h6,11H,4-5H2,1-3H3,(H,10,14)(H,12,13);/q;+1/p-1/t6-;/m0./s1
